2121-10-28 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -cardiac enzymes rising:  0.27 -> 0.63 -> 1.07 ; CK 1200 -> 1800
   -started IV heparin
   -EKG shows LBBB (unclear if old or new)
   -cardiology aware ? cath today
   -chest CT suggests sequlae of massive aspiration event leading to
   bilateral lower lobe consolidations/ground glass opacities
   -creatinine improved from 1.3 to 1.1
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2121-10-27**] 08:32 PM
   Ciprofloxacin - [**2121-10-27**] 10:10 PM
   Cefipime - [**2121-10-28**] 06:14 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2121-10-27**] 05:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-10-28**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (97
   HR: 81 (80 - 110) bpm
   BP: 101/49(60) {91/49(13) - 122/86(142)} mmHg
   RR: 20 (18 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,618 mL
                                                                  1,026 mL
   PO:
             TF:
   IVF:
                                                                  2,618 mL
                                                                  1,026 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    825 mL
   Urine:
                                                                  1,475 mL
                                                                    625 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,143 mL
                                                                    201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 498 (498 - 498) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 22 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/35/110/22/-2
   Ve: 11.1 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   10.8 g/dL
   210 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.0 mEq/L
   16 mg/dL
   113 mEq/L
   143 mEq/L
   31.1 %
   15.3 K/uL
        [image002.jpg]
                             [**2121-10-27**]  03:40 PM
                             [**2121-10-27**]  05:34 PM
                             [**2121-10-27**]  09:16 PM
                             [**2121-10-27**]  11:11 PM
                             [**2121-10-28**]  03:11 AM
                             [**2121-10-28**]  06:22 AM
   WBC
   18.6
   15.3
   Hct
   36.7
   31.1
   Plt
   208
   160
   Cr
   1.1
   0.9
   0.9
   TropT
   0.63
   1.07
   1.05
   TCO2
   18
   21
   22
   Glucose
   [**Telephone/Fax (3) 9221**]
   Other labs: PT / PTT / INR:13.8/51.4/1.2, CK / CKMB /
   Troponin-T:2146/110/1.05, ALT / AST:52/188, Alk Phos / T Bili:52/0.2,
   Differential-Neuts:95.5 %, Lymph:2.7 %, Mono:1.2 %, Eos:0.5 %, Lactic
   Acid:2.2 mmol/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment/Plan: 49 yo man with presumed CAD, DM who presents w/ resp
   distress found to be profoundly hypertensive, evidence of aspiration on
   CT chest and rising CEs
   .
   1)       Hypoxia:  Likely secondary to pulmonary edema in the setting
   of worsening cardiac function and hypertension versus aspiration
   pneumonia, or a combination of both.
   For worsening cardiac function:
   -cycled enzymes and has Ruled In for MI
   -echo shows depressed LVEF that we [**Male First Name (un) **]
t know if new but could
   represent effects of ischemia
   -EKG shows LBBB that we [**Male First Name (un) **]
t know is new, again could represent ACS
   -continued on aspirin, plavix, statin (increase to 80)
   -on IV heparin
   -need outside records to compare
   -cardiology aware and may take to cath
   -metformin being held
   For pulmonary edema
   -can give boluses of lasix throughout day and see how responds in terms
   of output and BP
   2) Aspiration PNA - Febrile with WBC count elevated at 27 on initial
   labs, now trending down likely after fluid resuscitation. Aspiration
   PNA read based on appearance on CT Chest.
   -Start vanc, cefepime, ciprofloxacin
   -Trending WBC
   - sputum cultures
   - blood cultures
   .
   3) Acute renal failure - Resolved with IVFs
    -IV hydration
   -Trend creatinines
   -Holding metformin, glyburide, lisinopril
   .
   4) DM
   -SSC insulin
   .
   PPx: heparin drip, IV PPI
   Code: Presumed full, confirmed with son
   Access: [**Name (NI) 1403**] x 3
   Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-10-27**] 02:36 PM
   16 Gauge - [**2121-10-27**] 06:26 PM
   Arterial Line - [**2121-10-27**] 07:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-10-29 13:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2121-10-28**] 08:41 AM
 SPUTUM CULTURE - At [**2121-10-28**] 09:30 AM
 EKG - At [**2121-10-28**] 12:04 PM
 CARDIAC CATH - At [**2121-10-28**] 01:15 PM
   SENT TO CATH LAB ~1315. ALL VSS.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2121-10-28**] 06:14 AM
   Vancomycin - [**2121-10-28**] 08:24 AM
   Ciprofloxacin - [**2121-10-28**] 10:16 AM
   Ampicillin - [**2121-10-28**] 09:59 PM
   Ampicillin/Sulbactam (Unasyn) - [**2121-10-29**] 04:17 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-10-28**] 09:50 PM
   Furosemide (Lasix) - [**2121-10-28**] 09:50 PM
   Heparin Sodium (Prophylaxis) - [**2121-10-29**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-10-29**] 01:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 99 (83 - 112) bpm
   BP: 113/64(80) {90/52(65) - 141/79(99)} mmHg
   RR: 22 (9 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.4 kg (admission): 93.6 kg
   Height: 66 Inch
             Total In:
                                                                  2,714 mL
                                                                    841 mL
   PO:
             TF:
   IVF:
                                                                  2,654 mL
                                                                    661 mL
   Blood products:
   Total out:
                                                                  3,635 mL
                                                                  2,175 mL
   Urine:
                                                                  3,435 mL
                                                                  2,175 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -921 mL
                                                                 -1,334 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 359 (359 - 639) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 70%
   RSBI: 47
   PIP: 6 cmH2O
   Plateau: 18 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 93%
   ABG: 7.45/42/95.[**Numeric Identifier 253**]/31/4
   Ve: 11.7 L/min
   PaO2 / FiO2: 137
   Physical Examination
   Gen: Intubated but interactive and responds appropriately to verbal
   command
   HEENT: ETT in place
   CV: Nl S1+S2, no m/r/g
   Pulm: Early inspiratory crackles bilaterally to anterior auscultation
   Abd: S/NT/ND +bs
   Ext: No c/c/e 2+ dp/pt bilaterally
   Neuro: Opens eyes and moves all 4 extremities to command.
   Labs / Radiology
   158 K/uL
   10.1 g/dL
   149 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.7 mEq/L
   17 mg/dL
   109 mEq/L
   144 mEq/L
   29.7 %
   12.4 K/uL
        [image002.jpg]
                             [**2121-10-28**]  06:22 AM
                             [**2121-10-28**]  08:40 AM
                             [**2121-10-28**]  10:42 AM
                             [**2121-10-28**]  05:24 PM
                             [**2121-10-28**]  05:38 PM
                             [**2121-10-28**]  09:22 PM
                             [**2121-10-29**]  03:03 AM
                             [**2121-10-29**]  03:34 AM
                             [**2121-10-29**]  07:45 AM
                             [**2121-10-29**]  09:35 AM
   WBC
   12.4
   Hct
   29.2
   29.7
   Plt
   147
   158
   Cr
   0.9
   TCO2
   22
   25
   26
   28
   29
   30
   32
   30
   Glucose
   149
   Other labs: PT / PTT / INR:12.5/24.1/1.1, CK / CKMB /
   Troponin-T:1670/42/1.05, ALT / AST:52/193, Alk Phos / T Bili:49/0.3,
   Differential-Neuts:95.5 %, Lymph:2.7 %, Mono:1.2 %, Eos:0.5 %, Lactic
   Acid:2.2 mmol/L, LDH:805 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Imaging: CXR [**10-29**] pending
   .
   Cardiac cath [**10-28**]
   1. Selective coronary angiography of this right dominant system
   revealed
   single vessel disease with in stent occlusion of the LCX.  The LMCA had
   no angiographically apparent flow limiting disease.  The LAD had minor
   luminal irregularities but no focal stenoses.  The mid to distal LAD
   was
   a very small caliber vessel.  The LCX was occluded in the region of the
   prior stents.  The RCA had minor luminal irregularities and was a
   dominant vessel.
   2. Resting hemodynamics demonstrated diastolic dysfunction (LVEDP 35 mm
   Hg), moderate pulmonary hypertension (PA pressure 36/22 mm Hg),
   elevated
   right sided filling pressures (RVEDP 21 mm Hg), and elevated left sided
   filling pressures (PCWP 22 mg Hg). The cardiac index was normal.  There
   was no inappropriate step up of oxygen saturation from the SVC to the
   PA and therefore no evidence of intracardiac shunt.  There was no
   evidence of constrictive or restrictive cardiomyopathy.
   3. Left ventriculogram done from [**Doctor Last Name **] and LAO projections showed global
   hypokinesis,  increased volume of LV, and no mitral regurgitation.
   4. . . .
   FINAL DIAGNOSIS:
   1. One vessel coronary artery disease.
   2. Moderate diastolic ventricular dysfunction.
   3. Moderate systolic ventricular dysfunction.
   4. Moderate primary pulmonary hypertension.
   5. Acute posterior myocardial infarction, managed by acute ptca.
   6. PTCA of  vessel.
   .
   TTE [**10-28**]
   Suboptimal image quality. Mild regional and mild global left
   ventricular systolic function. No pathologic valvular flow identified.
   EF 40%
   Microbiology:    GRAM STAIN (Final [**2121-10-28**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
 The patient is a 49 year old gentleman with a PMH significant for CAD
   s/p PCI and DM 2 admitted for respiratory failure found to have an
   NSTEMI, now s/p cath with thrombectomy of previously placed LCx stent.
   .
   # CAD: Patient now s/p PTCA and thrombus extraction of stent in LCx.
   TTE demonstrates mild global hypokinesis and basal inferolateral
   akinesis with LVEF 40%, although V-gram suggests 30%.  Given
   Integrillin x18 hours following cath.
   - Continue ASA 325 mg, plavix 75 mg, atorvastatin 80 mg.
   - Titrate up Metoprolol from 12.5 mg po bid as HR and SBP tolerates.
   - Resume home lisinopril 10 mg daily
   - Trend cardiac biomarkers until MB peak.
   .
   # Respiratory failure: Unclear based on current records if this was
   hypoxic or hypercarbic respiratory failure, but likely hypoxic given CT
   demonstrating bibasilar consolidations. Most likely etiology at this
   time is acute pulmonary edema given elevated filling pressures and PCWP
   suggestive of elevated right and left-sided filling pressures in
   setting of ACS with possible additional component of aspiration
   pneumonia versus pneumonitis.
   - Diurese with Lasix prn, goal TBB -1-2 L
   - Wean ventilation and extubated today if possible
   - Cover with amp/sulbactam for aspiration event as patient does not
   have any HAP risk factors.
   - Follow-up sputum sensitivities and blood cultures.
   .
   # Pump: TTE today with LVEF 40% with pulmonary edema.
   - Diuresis as above.
   - Metoprolol as above, plan to start ACE-I today as above.
   - Monitor volume status (UOP, I/Os), goal TBB as above.
   .
   # Rhythm: Currently sinus with 1:1 conduction.  Continue monitoring on
   telemetry.
   .
   # Leukocytosis: Elevated WBC with left shift suggestive of either
   infectious process or reactive leukocytosis [**2-24**] ACS.
   - Trend fever curve, WBC, culture data.
   - f/u repeat CXR read today.
   .
   # Anemia: Most recent hematocrit of 31.1 from 36 on admission after
   fluid rescucitation with unknown baseline.  Hct stable overnight.
   - Trend hct
   - Obtain PCP records for baseline hct.
   - Active T+S, transfuse for hct<28 given ACS.
   .
   # Transaminitis: Uncertain etiology at this time, although AST>ALT
   somewhat concerning for EtOH given social history.  LFTs today
   persistently elevated, will continue to monitor.
   - Trend LFTs, if persistently elevated, will check viral serologies.
   .
   # DM 2: Cover with SSI.
   .
   # EtOH: Thiamine, folate, MVI.
   - When extubated and off sedation, CIWA protocol with valium.
   ICU Care
   Nutrition:  NPO while intubated
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-10-27**] 02:36 PM
   Arterial Line - [**2121-10-27**] 07:24 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  Famotidine IV
   VAP:
   Comments:
   Communication:  Comments:  Communication: Father [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   [**Name2 (NI) 156**] status: Full code (confirmed)
   Disposition:  ICU care
   ------ Protected Section ------
   CCU ADMISSION HISTORY AND PHYSICAL
   I have reviewed the Comprehensive Progress Note by Dr. [**First Name (STitle) **] and I concur
   with the history, physical, assessment and plan as outlined above.
   Mr. [**Known lastname 4055**] is a 49 year old man who developed very late stent
   thrombosis following placement of two overlapping TAXUS stents.
   Successful PCI was performed with balloon angioplasty alone yesterday.
   Right and left heart catheterization showed elevated right and left
   heart pressures with a dilated cardiomyopathy and LVEF = 30%.
   He was extubated this morning and he is doing well.
   We will continue aspirin 325 mg daily indefinitely and Plavix 75 mg
   twice daily for one month, followed by 75 mg daily indefinitely
   thereafter.
   Appropriate medications including beta blockers and ACE inhibitors will
   be started for his cardiomyopathy.
   Plan was discussed with the patient.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2121-10-29**] 16:29 ------

2121-10-30 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2121-10-29**] 08:45 AM
 INVASIVE VENTILATION - STOP [**2121-10-29**] 10:59 AM
 ARTERIAL LINE - STOP [**2121-10-29**] 12:00 PM
 EKG - At [**2121-10-29**] 09:05 PM
   EKG changes on monitor, SVT
 EKG - At [**2121-10-29**] 11:20 PM
   EKG changes on monitor, back in sinus
 INVASIVE VENTILATION - START [**2121-10-30**] 05:52 AM
 FEVER - 101.1
F - [**2121-10-29**] 07:00 AM
   Overnight, pt became tachycardic, hypertensive and developed
   wide-complex QRS waves on EKG.  These waves were thought to be
   secondary to tachycardia induced BBB which the patient has had
   previously.  He was treated with multiple doses of valium and ativan
   for presumed alcohol withdrawl and concern for delirium tremens.  With
   increasing frequency of valium, pts hemodynamics did not stabilize and
   developed hypoxic respiratory failure leading to intubation.  Pt was
   briefly treated with a nitro gtt which was weaned off when pressures
   stabilized.  Versed gtt was simultaneously started and titrated to
   control his hemodynamic state.  Additionally, pt was given a banana
   bag.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2121-10-28**] 06:14 AM
   Vancomycin - [**2121-10-28**] 08:24 AM
   Ciprofloxacin - [**2121-10-28**] 10:16 AM
   Ampicillin - [**2121-10-28**] 09:59 PM
   Ampicillin/Sulbactam (Unasyn) - [**2121-10-30**] 04:06 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Nitroglycerin - 0.08 mcg/Kg/min
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-10-29**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2121-10-29**] 11:23 PM
   Lorazepam (Ativan) - [**2121-10-30**] 02:00 AM
   Diazepam (Valium) - [**2121-10-30**] 04:50 AM
   Furosemide (Lasix) - [**2121-10-30**] 05:20 AM
   Metoprolol - [**2121-10-30**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-10-30**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.6
C (97.8
   HR: 130 (97 - 132) bpm
   BP: 159/89(105) {108/58(71) - 182/132(138)} mmHg
   RR: 27 (13 - 39) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 95.4 kg (admission): 93.6 kg
   Height: 66 Inch
             Total In:
                                                                  1,502 mL
                                                                    114 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,082 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                    790 mL
   Urine:
                                                                  3,420 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,918 mL
                                                                   -676 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather, Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 359 (359 - 359) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.44/39/67/30/1
   Ve: 12 L/min
   PaO2 / FiO2: 67
   Physical Examination
   Gen: Intubated ,sedated
   HEENT: ETT in place
   CV: Nl S1+S2, no m/r/g
   Pulm: Rhonchi/crackles bilaterally
   Abd: S/NT/ND +bs
   Ext: No c/c/e 2+
   Neuro: sedated
   Labs / Radiology
   170 K/uL
   11.8 g/dL
   149 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.9 mEq/L
   12 mg/dL
   103 mEq/L
   141 mEq/L
   35.1 %
   12.4 K/uL
        [image002.jpg]
                             [**2121-10-28**]  05:24 PM
                             [**2121-10-28**]  05:38 PM
                             [**2121-10-28**]  09:22 PM
                             [**2121-10-29**]  03:03 AM
                             [**2121-10-29**]  03:34 AM
                             [**2121-10-29**]  07:45 AM
                             [**2121-10-29**]  09:35 AM
                             [**2121-10-30**]  01:47 AM
                             [**2121-10-30**]  03:09 AM
                             [**2121-10-30**]  04:56 AM
   WBC
   12.4
   12.4
   Hct
   29.2
   29.7
   35.1
   Plt
   147
   158
   170
   Cr
   0.9
   0.9
   TCO2
   28
   29
   30
   32
   30
   28
   27
   Glucose
   149
   149
   Other labs: PT / PTT / INR:12.2/25.6/1.0, CK / CKMB /
   Troponin-T:1670/42/1.05, ALT / AST:52/193, Alk Phos / T Bili:49/0.3,
   Differential-Neuts:95.5 %, Lymph:2.7 %, Mono:1.2 %, Eos:0.5 %, Lactic
   Acid:2.2 mmol/L, LDH:805 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 The patient is a 49 year old gentleman with a PMH significant for CAD
   s/p PCI and DM 2 admitted for respiratory failure found to have an
   NSTEMI, now s/p cath with thrombectomy of previously placed LCx stent.
   .
   #Delirium tremens: hemodynamics stabilized with intubation and sedation
   with benzos.
   -continue versed gtt titrating to comfort and hemodynamic stability
   -pt may require additional doses of valium to stabilize hemodynamics
   .
   # CAD: Patient now s/p PTCA and thrombus extraction of stent in LCx.
   TTE demonstrates mild global hypokinesis and basal inferolateral
   akinesis with LVEF 40%, although V-gram suggests 30%.  Given
   Integrillin x18 hours following cath.
   - Continue ASA 325 mg, plavix 75 mg, atorvastatin 80 mg.
   - Continue metoprolol at 25 mg PO BID.
   - Resume home lisinopril 10 mg daily when pressures stable
   .
   # Fever/leucocytosis: most likely etiology is PNA, however also
   concerning for reactive leukocytosis [**2-24**] ACS.  WBC stable.  Plan to
   continue abx as below and pan-culture.  Trend WBC.
   .
   # Respiratory failure: Hypoxic respiratory failure concerning for flash
   pulmonary edema vs PNA.  Stablized on vent.
   - Obtain ABG today
   - Wean vent as tolerated
   - Diurese with Lasix prn, goal TBB -500- neg 1 liter today
   - Cover with amp/sulbactam for aspiration event as patient does not
   have any HAP risk factors.
   - Repeat sputum cxs today
   .
   # Pump: TTE today with LVEF 40% with pulmonary edema.
   - Diuresis as above.
   - Metoprolol as above, plan to start ACE-I when pressures stabilize
   - Monitor volume status (UOP, I/Os), goal TBB as above.
   .
   # Rhythm: Currently sinus with 1:1 conduction with RBBB when
   tachycardia.  Monitor on tele.
   ..
   # Anemia: Improved o/n
   - Trend daily crit
   - Active T+S, transfuse for hct<28 given ACS.
   .
   # Transaminitis: Uncertain etiology at this time, although AST>ALT
   somewhat concerning for EtOH given social history.  LFTs today
   persistently elevated, will continue to monitor.
   - Trend LFTs, if persistently elevated, will check viral serologies.
   .
   # DM 2: Cover with SSI.
   .
   # EtOH: Thiamine, folate, MVI.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: glargine and  ISS
   Lines:
   2 PIVs
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:CCU for now
   ------ Protected Section ------
   CCU COMPREHENSIVE PROGRESS NOTE
   I have reviewed the Comprehensive Progress Note by Dr. [**Last Name (STitle) **] and I
   concur with the History, Physical, and Medical Decision Making.   Mr.
   [**Known lastname 4055**] is a 49 year old man who developed very late stent thrombosis
   following placement of two overlapping TAXUS stents.  Successful PCI
   was performed with balloon angioplasty alone yesterday.  Right and left
   heart catheterization showed elevated right and left heart pressures
   with a dilated cardiomyopathy and LVEF = 30%.  We have now learned that
   the cardiomyopathy is of longstanding duration.
   After an initial period of extubation, the patient developed
   hypertension, tachycardia, and fevers consistent with alcohol
   withdrawal syndrome.  He was treated with IV benzodiazapines.  He
   ultimately required intubation of hypoxemia due to his underlying
   aspiration pneumonia.  He has been given vitamins with his IVFs.  We
   will rest him today on the ventilatory and aim toward extubation in the
   AM should his condition stabilize.
   We will continue aspirin 325 mg daily indefinitely and Plavix 75 mg
   twice daily for one month, followed by 75 mg daily indefinitely
   thereafter.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2121-10-30**] 22:31 ------

2121-10-31 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER
 102F this morning.  BCx, UCx, Sputum Cx sent.  On Unasyn.
   Pt remains intubated, fully vent supported on AC mode.  Minimal changes
   made overnight.  RSBI=86 this am
   CMV, 500x14, PEEP 5, FiO2 50%
    O2 sat 94-98%
   .
   Pt intermittently restless and agitated.  Midazolam/Fentanyl drips for
   delirium tremors, increased Midazolam drip to 14ml/hr for agitation.
   .
   PO Lopressor dose decreased to 12.5mg [**Hospital1 **].
   Nitro drip titrated to off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-10-28**] 08:24 AM
   Ciprofloxacin - [**2121-10-28**] 10:16 AM
   Ampicillin - [**2121-10-28**] 09:59 PM
   Ampicillin/Sulbactam (Unasyn) - [**2121-10-31**] 04:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Fentanyl - [**2121-10-30**] 08:21 AM
   Famotidine (Pepcid) - [**2121-10-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2121-10-31**] 02:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-10-31**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.2
C (100.7
   HR: 104 (90 - 114) bpm
   BP: 122/71(98) {89/45(55) - 125/78(98)} mmHg
   RR: 25 (18 - 38) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.8 kg (admission): 93.6 kg
   Height: 66 Inch
             Total In:
                                                                  1,904 mL
                                                                    409 mL
   PO:
             TF:
                                                                     53 mL
                                                                    159 mL
   IVF:
                                                                  1,731 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    385 mL
   Urine:
                                                                  1,955 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                     24 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.45/41/117/29/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Gen: Intubated ,sedated, grimaces to pain
   HEENT: ETT in place
   CV: RRR, Nl S1+S2, no m/r/g
   Pulm: Equal and clear breath sounds anteriorly
   Abd: S/NT/ND
   Ext: No c/c/e
   Labs / Radiology
   173 K/uL
   10.0 g/dL
   141 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   19 mg/dL
   109 mEq/L
   144 mEq/L
   29.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2121-10-29**]  07:45 AM
                             [**2121-10-29**]  09:35 AM
                             [**2121-10-30**]  01:47 AM
                             [**2121-10-30**]  03:09 AM
                             [**2121-10-30**]  04:56 AM
                             [**2121-10-30**]  08:33 AM
                             [**2121-10-30**]  10:00 AM
                             [**2121-10-30**]  04:00 PM
                             [**2121-10-30**]  04:54 PM
                             [**2121-10-31**]  02:57 AM
   WBC
   12.4
   8.4
   Hct
   35.1
   29.3
   Plt
   170
   173
   Cr
   0.9
   0.9
   TCO2
   32
   30
   28
   27
   28
   29
   Glucose
   149
   181
   152
   141
   Other labs: PT / PTT / INR:12.2/25.6/1.0, CK / CKMB /
   Troponin-T:1670/42/1.05, ALT / AST:52/193, Alk Phos / T Bili:49/0.3,
   Differential-Neuts:95.5 %, Lymph:2.7 %, Mono:1.2 %, Eos:0.5 %, Lactic
   Acid:2.2 mmol/L, LDH:805 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.2
   mg/dL
   Fluid analysis / Other labs: TSH:2.9
   Hct 35.9 <- 39.3
   Imaging:
   CXR [**10-29**]
   Stable cardiomegaly without overt pulmonary edema. No focal
   consolidation seen.
   Microbiology: [**10-29**] UA:  (large) leuk/esterase, (+) nitrites, 32 wbc,
   few bacteria
   UA negative to date.
   Assessment and Plan
 The patient is a 49 year old gentleman with a PMH significant for CAD
   s/p PCI and DM 2 admitted for respiratory failure found to have an
   NSTEMI, now s/p cath with thrombectomy of previously placed LCx stent.
   .
   # Fever/leucocytosis: Pt still febrile despite being on Unasyn for
   presumed aspiration PNA based on initial imaging, but with no
   leukocytosis.   Recent UA markedly positive, but UCx shows no growth to
   date.  Will pan culture again today as pt 102 this morning and broaden
   antibiotic coverage.
   - Repeat BCx, UCx, sputum cx
   - d/c Unasyn
   - Initiate Vanc/Cefepime/Ceftriaxone for double coverage;  if cultures
   negative x48hrs, will d/c Ceftriaxone
   .
   # Delirium tremens: Hemodynamics stabilized with intubation and
   sedation with benzos.  Uptitrated Midazolam overnight in the setting of
   discontinuing prn Valium doses, currently appropriately sedated.
   -Continue Midazolam/Fentanyl gtt, titrating to comfort and hemodynamic
   stability
   -d/c Valium
   .
   # CAD: Patient now s/p PTCA and thrombus extraction of stent in LCx.
   TTE demonstrates mild global hypokinesis and basal inferolateral
   akinesis with LVEF 40%, although V-gram suggests 30%.  Given
   Integrillin x18 hours following cath.
   - Continue ASA 325 mg, plavix 75 mg, atorvastatin 80 mg.
   - Continue metoprolol at lower dose of 12.5 mg PO BID.
   - Resume home lisinopril 10 mg daily when pressures stable and sedation
   weaned off
   .
   # Respiratory failure: Hypoxic respiratory failure concerning for flash
   pulmonary edema vs PNA.  Stabilized on vent.
   - CPAP trial; wean vent as tolerated
   - Diurese with Lasix prn, goal TBB even- (-)500 today
   - Cover with antibiotics as above for ?aspiration PNA, as no clinical
   improvement on Unasyn
   - Repeat CXR
   - Repeat sputum cxs today
   .
   # Pump: TTE today with LVEF 40% with pulmonary edema.
   - Diuresis as above.
   - Metoprolol as above, plan to start ACE-I when pressures stabilize
   - Monitor volume status (UOP, I/Os), goal TBB as above.
   .
   # Rhythm: Currently sinus with 1:1 conduction with RBBB when
   tachycardia.  Monitor on tele.
   ..
   # Anemia: Hct stable, 35.1-> 29.3 overnight, but was previously stable
   at 29.3, suspect yesterday
s Hct was a spurious result.  Will repeat
   Hct, as no evidence of bleed, will trend daily.
   - Active T+S, transfuse for hct<28 given ACS.
   .
   # Transaminitis: Uncertain etiology at this time, although AST>ALT
   somewhat concerning for EtOH given social history.  LFTs today
   persistently elevated but essentially stable from yesterday, will
   continue to monitor.
   - Trend LFTs, if persistently elevated, will check viral serologies.
   .
   # DM 2: Cover with SSI.
   .
   # EtOH: Thiamine, folate, MVI.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2121-10-30**] 06:45 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-10-30**] 06:01 AM
   20 Gauge - [**2121-10-31**] 03:21 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the Comprehensive Progress Note by Dr. [**First Name (STitle) **] and I concur
   with the History, Physical, and Medical Decision Making.
   History:  Documented by Dr. [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 9287**]: Documented by Dr. [**First Name (STitle) **]
   Medical Decision Making:   Mr. [**Known lastname 4055**] is a 49 year old man who
   developed very late stent thrombosis following placement of two
   overlapping TAXUS stents.  Successful PCI was performed with balloon
   angioplasty alone yesterday.  Right and left heart catheterization
   showed elevated right and left heart pressures with a dilated
   cardiomyopathy and LVEF = 30%.  We have now learned that the
   cardiomyopathy is of longstanding duration.   He has also developed
   acute alcohol withdrawal syndrome that required large dosages of
   benzodiazepidine.
   After an initial period of stabilization, he required re-intubation for
   worsening hypoxemia.   He developed a fever to 102 today and we have
   broadened his antibiotic coverage.   We will continue to rest him today
   on the ventilatory today and aim toward extubation in the AM should his
   condition stabilize.
   We will continue aspirin 325 mg daily indefinitely and Plavix 75 mg
   twice daily for one month, followed by 75 mg daily indefinitely
   thereafter.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2121-10-31**] 20:38 ------

2121-11-01 06:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2121-10-31**] 07:30 PM
 BLOOD CULTURED - At [**2121-10-31**] 08:00 PM
 SPUTUM CULTURE - At [**2121-10-31**] 08:00 PM
 FEVER - 102.0
F - [**2121-10-31**] 08:00 AM
   -Fever o/n, re-cultured (Bcx, UCx, sputum cx) and repeated CXR (read
   pending but looks like increased opacity at lung base).
   -d/c'ed Unasyn, started Vanc/Cefepime/Cipro for broad coverage
   -Hct 35 -> 29 overnight, stable at 29 this am
   -Trending LFTs (high on admission, likely [**2-24**] EtOH) with AM labs
   -+700cc in PM so gave Lasix 20mg IV x1 for goal even-(-)500cc
   yesterday, gave addl 40 this AM as
   -On trial of CPAP on vent
   -Agitated on CPAP, desaturated to 89%, had to be put back on vent with
   sats 92% Assist Control 550 RR18 FIO2 50% (incr)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2121-10-31**] 10:30 AM
   Cefipime - [**2121-11-1**] 12:01 AM
   Ciprofloxacin - [**2121-11-1**] 04:59 AM
   Vancomycin - [**2121-11-1**] 05:59 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2121-10-31**] 07:30 PM
   Midazolam (Versed) - [**2121-10-31**] 08:15 PM
   Famotidine (Pepcid) - [**2121-10-31**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2121-11-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-1**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.6
C (101.5
   HR: 89 (85 - 103) bpm
   BP: 103/67(75) {97/47(60) - 157/86(129)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.8 kg (admission): 93.6 kg
   Height: 66 Inch
             Total In:
                                                                  2,544 mL
                                                                  1,246 mL
   PO:
             TF:
                                                                    788 mL
                                                                    301 mL
   IVF:
                                                                  1,497 mL
                                                                    654 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    265 mL
   Urine:
                                                                  1,855 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    689 mL
                                                                    981 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 561 (419 - 561) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 44
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.47/37/108/27/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Gen: Intubated ,sedated, grimaces to pain
   HEENT: ETT in place
   CV: RRR, Nl S1+S2, no m/r/g
   Pulm: Equal and clear breath sounds anteriorly
   Abd: S/NT/ND
   Ext: No c/c/e
   Labs / Radiology
   186 K/uL
   10.0 g/dL
   154 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.8 mEq/L
   21 mg/dL
   107 mEq/L
   142 mEq/L
   29.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2121-10-30**]  03:09 AM
                             [**2121-10-30**]  04:56 AM
                             [**2121-10-30**]  08:33 AM
                             [**2121-10-30**]  10:00 AM
                             [**2121-10-30**]  04:00 PM
                             [**2121-10-30**]  04:54 PM
                             [**2121-10-31**]  02:57 AM
                             [**2121-10-31**]  07:11 PM
                            [**2121-11-1**]  12:00 AM
                            [**2121-11-1**]  04:36 AM
   WBC
   8.4
   7.3
   Hct
   29.3
   29.9
   29.1
   Plt
   173
   186
   Cr
   0.9
   1.0
   TCO2
   28
   27
   28
   29
   28
   Glucose
   181
   152
   141
   154
   Other labs: PT / PTT / INR:12.2/25.6/1.0, CK / CKMB /
   Troponin-T:1670/42/1.05, ALT / AST:59/67, Alk Phos / T Bili:101/0.3,
   Differential-Neuts:95.5 %, Lymph:2.7 %, Mono:1.2 %, Eos:0.5 %, Lactic
   Acid:2.2 mmol/L, LDH:805 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 The patient is a 49 year old gentleman with a PMH significant for CAD
   s/p PCI and DM 2 admitted for respiratory failure found to have an
   NSTEMI, now s/p cath with thrombectomy of previously placed LCx stent
   and being managed for EtOH withdrawl
   .
   # Fever/leucocytosis: Abx coverage broadened yesterday, pan cultured
   given fevers over the last 24 hrs.  Sputum showed rare GPCs, otherwise
   no + cxs.
   - follow cxs
   - Continue  Vanc/Cefepime/Ceftriaxone for double coverage;  if cultures
   negative x48hrs, will d/c Ceftriaxone.  Will add flagyl for gram
   coverage out of concern for aspiration event.
   .
   # Delirium tremens: Hemodynamics stabilized with intubation and
   sedation with benzos.  Was able to decrease Midazolam doses o/n.
   -Continue Midazolam/Fentanyl gtt, titrating to comfort and hemodynamic
   stability
   .
   # CAD: Patient now s/p PTCA and thrombus extraction of stent in LCx.
   TTE demonstrates mild global hypokinesis and basal inferolateral
   akinesis with LVEF 40%, although V-gram suggests 30%.  Given
   Integrillin x18 hours following cath.
   - Continue ASA 325 mg, plavix 75 mg, atorvastatin 80 mg.
   - Continue metoprolol at lower dose of 12.5 mg PO BID.
   - Resume home lisinopril 10 mg daily when pressures stable and sedation
   weaned off
   .
   # Respiratory failure: Hypoxic respiratory failure concerning for flash
   pulmonary edema vs PNA.  Stabilized on vent.
   - ABG this afternoon, wean vent as tolerated
   - Diurese with Lasix gtt today, goal TBB even- (-)500 today
   - Cover with antibiotics as above for ?aspiration PNA
   - Will re-culture if fevers persist.
   .
   # Pump: TTE today with LVEF 40% with pulmonary edema.
   - Diuresis as above.
   - Metoprolol as above, plan to start ACE-I when pressures stabilize
   - Monitor volume status (UOP, I/Os), goal TBB as above.
   .
   # Rhythm: Currently sinus with 1:1 conduction with RBBB when
   tachycardia.  Monitor on tele.
   .
   # Anemia: Hct stable, 35.1-> 29.3 overnight, but was previously stable
   at 29.3, suspect yesterday
s Hct was a spurious result.  Will repeat
   Hct, as no evidence of bleed, will trend daily.
   - Active T+S, transfuse for hct<28 given ACS.
   .
   # Transaminitis: Uncertain etiology at this time, although AST>ALT
   somewhat concerning for EtOH given social history.  LFTs today
   persistently elevated but essentially stable from yesterday, will
   continue to monitor.
   - Trend LFTs, if persistently elevated, will check viral serologies.
   .
   # DM 2: Cover with SSI.
   .
   # EtOH: Thiamine, folate, MVI.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2121-10-31**] 11:56 PM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-10-30**] 08:35 PM
   18 Gauge - [**2121-11-1**] 12:00 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: with parents
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   I have reviewed the Comprehensive Progress Note by Dr. [**First Name (STitle) 6192**] and I
   concur with the History, Physical, and Medical Decision Making.
   History:  Documented by Dr. [**First Name (STitle) 6192**]
   [**Name (STitle) 9287**]: Documented by Dr. [**First Name (STitle) 6192**]
   Medical Decision Making:   Mr. [**Known lastname 4055**] is a 49 year old man who
   developed very late stent thrombosis following placement of two
   overlapping TAXUS stents.  Successful PCI was performed with balloon
   angioplasty alone yesterday.  Right and left heart catheterization
   showed elevated right and left heart pressures with a dilated
   cardiomyopathy and LVEF = 30%.  We have now learned that the
   cardiomyopathy is of longstanding duration.   He has also developed
   acute alcohol withdrawal syndrome that required large dosages of
   benzodiazepidine.
   After an initial period of stabilization, he required re-intubation for
   worsening hypoxemia.  After having been treated for aspiration and
   community acquired pneumonia, he has continued with low grade fevers
   although his WBC remains normal.   We will further broader his
   antibiotic coverage with Flagyl with evidence of ongoing infection.
   We will continue ventilatory support today and push diuresis.  We will
   continue aspirin 325 mg daily indefinitely and Plavix 75 mg twice daily
   for one month, followed by 75 mg daily indefinitely thereafter.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2121-11-1**] 15:57 ------

2121-11-02 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Unable to vocalize d/t
   intubation.
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-11-1**] 04:42 PM
 FEVER - 101.3
F - [**2121-11-2**] 12:00 AM
   Patient more alert this morning with increased limb movement and facial
   feature changes.
   Fentanyl and Midazolam have been off since 9AM.
   A lot of white sputum production being suctioned, per respiratory and
   nursing.
   No new micro growth.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2121-10-31**] 10:30 AM
   Cefipime - [**2121-11-2**] 12:00 AM
   Vancomycin - [**2121-11-2**] 02:00 AM
   Ciprofloxacin - [**2121-11-2**] 05:00 AM
   Metronidazole - [**2121-11-2**] 05:59 AM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-11-1**] 08:39 AM
   Furosemide (Lasix) - [**2121-11-1**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2121-11-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-2**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.4
C (101.2
   HR: 90 (84 - 104) bpm
   BP: 111/71(80) {90/52(61) - 123/81(89)} mmHg
   RR: 20 (15 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.1 kg (admission): 93.6 kg
   Height: 66 Inch
             Total In:
                                                                  4,331 mL
                                                                  1,690 mL
   PO:
             TF:
                                                                  1,445 mL
                                                                    446 mL
   IVF:
                                                                  2,016 mL
                                                                    865 mL
   Blood products:
   Total out:
                                                                  4,705 mL
                                                                  1,820 mL
   Urine:
                                                                  4,705 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -374 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 390 (390 - 390) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 20
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.46/40/87.[**Numeric Identifier 7**]/28/4
   Ve: 8.9 L/min
   PaO2 / FiO2: 176
   Physical Examination
   GEN: NAD, intubated, moving limbs/flailing, and moving neck/head a lot.
   CV: RRR, no m/r/g
   PULM: CTAB posterior and anterior
   ABD: soft, nt, nd
   EXTR: no swelling
   Labs / Radiology
   197 K/uL
   10.4 g/dL
   238 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   26 mg/dL
   102 mEq/L
   140 mEq/L
   30.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2121-10-30**]  10:00 AM
                             [**2121-10-30**]  04:00 PM
                             [**2121-10-30**]  04:54 PM
                             [**2121-10-31**]  02:57 AM
                             [**2121-10-31**]  07:11 PM
                            [**2121-11-1**]  12:00 AM
                            [**2121-11-1**]  04:36 AM
                            [**2121-11-1**]  04:19 PM
                            [**2121-11-1**]  05:55 PM
                            [**2121-11-2**]  03:01 AM
   WBC
   8.4
   7.3
   7.8
   Hct
   29.3
   29.9
   29.1
   30.9
   Plt
   173
   186
   197
   Cr
   0.9
   1.0
   1.2
   1.4
   TCO2
   29
   28
   29
   Glucose
   181
   152
   141
   154
   221
   238
   Other labs: PT / PTT / INR:12.2/25.6/1.0, CK / CKMB /
   Troponin-T:1670/42/1.05, ALT / AST:59/67, Alk Phos / T Bili:101/0.3,
   Differential-Neuts:95.5 %, Lymph:2.7 %, Mono:1.2 %, Eos:0.5 %, Lactic
   Acid:2.2 mmol/L, LDH:805 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Radiology: Most recent CXR 10/9/9 - Small bilateral layering pleural
   effusions with mild pulmonary edema are unchanged since the previous
   chest radiograph.
   Assessment and Plan
   The patient is a 49 year old gentleman with a PMH significant for CAD
   s/p PCI and DM 2 admitted for respiratory failure found to have an
   NSTEMI, now s/p cath with thrombectomy of previously placed LCx stent
   and being managed for EtOH withdrawl.
   .
   # Fever: Abx coverage broadened to quadruple coverage, pan-cultured
   given fevers. Sputum showed rare GPCs, otherwise no + cxs. WBC 7.8
   today (overall a downwards trend since admission). Consider drug fever
   versus pneumonia versus other infection versus withdrawal syndrome.
   - follow cxs
   - Continue Vanc/Cefepime/Ceftriaxone/Flagyl;  if cultures negative
   x48hrs, will d/c Ceftriaxone
   - monitor WBC count
   .
   # Delirium tremens: Hemodynamics stabilized with intubation and
   sedation with benzos.  Currently slightly agitated off of
   fentanyl/versed for an hour.
   -Restart, if needed, Midazolam/Fentanyl gtt, titrating to comfort and
   hemodynamic stability
   .
   # CAD: Patient now s/p PTCA and thrombus extraction of stent in LCx.
   TTE demonstrates mild global hypokinesis and basal inferolateral
   akinesis with LVEF 40%, although V-gram suggests 30%.  Given
   Integrillin x18 hours following cath.
   - Continue ASA 325 mg, plavix 75 mg, atorvastatin 80 mg.
   - Continue metoprolol at lower dose of 12.5 mg PO BID.
   - Resume home lisinopril 10 mg daily when pressures stable and sedation
   weaned off
   .
   # Respiratory failure: Hypoxic respiratory failure concerning for flash
   pulmonary edema vs PNA.  Stabilized on vent.
   - Wean vent as tolerated today; possibly extubation is looks
   appropriate
   - Diurese with Lasix gtt today, goal: negative 1L to 1.5L today
   - Extra dose of 500 mg IV diuril now to help with diuresis
   - Cover with 4 antibiotics as above for ?aspiration PNA
   - Will re-culture if fevers persist; follow fever curve and WBC count
   - ABG to get a sense for ventilator settings appropriateness
   - SBT this morning
   - CXR post-extubation
   .
   # Pump: TTE today with LVEF 40% with pulmonary edema.
   - Diuresis as above; goal negative 1 to 1.5L today; via lasix drip and
   one-time diuril dose this AM with repeat PRN
   - Metoprolol as above, plan to start ACE-I when pressures stabilize
   - Monitor volume status (UOP, I/Os)
   .
   # Rhythm: Currently sinus with 1:1 conduction with RBBB when
   tachycardic.  Monitor on telemetry.
   .
   # Anemia: Hct stable, 35.1-> 29.3 overnight, but was previously stable
   at 29.3, suspect yesterday
s Hct was a spurious result.  Will repeat
   Hct, as no evidence of bleed, will trend daily.
   - Active T+S, transfuse for hct<28 given ACS.
   .
   # Transaminitis: Uncertain etiology at this time, although AST>ALT
   somewhat concerning for EtOH given social history.
   - Trend LFTs, if persistently elevated, will check viral serologies.
   .
   # DM 2: Cover with SSI.
   .
   # EtOH: Thiamine, folate, MVI.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2121-11-2**] 02:04 AM 65 mL/hour
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2121-10-30**] 08:35 PM
   18 Gauge - [**2121-11-1**] 12:00 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: with parents
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Lansoprazole for stress ulcer PXS; instead of famotidine as try to
   decrease volume intake.
   ------ Protected Section Addendum Entered By:[**Name (NI) 7185**] [**Last Name (NamePattern1) **], MD
   on:[**2121-11-2**] 13:01 ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the Comprehensive Progress Note by Dr. [**Last Name (STitle) **] and I
   concur with the History, Physical, and Assessment and Treatment Plan.
   My examination was performed in the present of the housestaff and the
   above note documents this examination.
   History:  Documented by Dr. [**Last Name (STitle) **].  He was unable to tolerate coming
   off his benzodiazepines due to agitation and his IV sedation was
   reinstituted.  His note writing was somewhat non sensical.  He moves
   all extremities.
   Physical: Documented by Dr. [**First Name (STitle) 6192**].  He still shows signs of volume
   overload as manifest by his low paO2 = 55 on FIO2 = 40%.
   Medical Decision Making:   Mr. [**Known lastname 4055**] is a 49 year old man who
   developed very late stent thrombosis following placement of two
   overlapping TAXUS stents.  Successful PCI was performed with balloon
   angioplasty alone yesterday.  Right and left heart catheterization
   showed elevated right and left heart pressures with a dilated
   cardiomyopathy and LVEF = 30%.  We have now learned that the
   cardiomyopathy is of longstanding duration.   He has also developed
   acute alcohol withdrawal syndrome that required large dosages of
   benzodiazepidine.
   After an initial period of stabilization, he required re-intubation for
   worsening hypoxemia.  After having been treated for aspiration and
   community acquired pneumonia.  His antibiotic coverage was broadened
   yesterday with the addition of Flagyl.  He continues to spike
   temperatures to 101.5 although his WBC has remained normal.   He did
   not tolerate attempts at weaning the ventilator.  We will continue
   ventilatory support again today and force diuresis.  Our fluid goals
   are negative 1-2 liters daily.
   We will continue aspirin 325 mg daily indefinitely and Plavix 75 mg
   twice daily for one month, followed by 75 mg daily indefinitely
   thereafter.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2121-11-2**] 13:40 ------

2121-11-04 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BAL FLUID CULTURE - At [**2121-11-3**] 12:37 PM
   mini BAL
 FEVER - 101.9
F - [**2121-11-3**] 08:00 AM (Trange over 24hours:
   99.6-101.9)
   Extubated.
   Feels no fever/chills, no chest pain/pressure. Breathing significantly
   improved. Feels oriented. Denies abdominal pain. Loose stools.
   Dry cough since starting work at a recycling plant (wears a mask but
   doesn
t feel that it fits very well).
   Keen to eat and walk; very talkative.
   Remembers severe SOB prior to the ambulance.
   CT head: Motion artifact
 limited study; layering secretions in
   nasopharynx
   CT A/P: pending
   ID consulted:
RECOMMENDATIONS:
1. Would check mini-BAL for gram stain and culture.
2. Would obtain neurologic imaging (MRI) to evaluate for underlying neurologic d
isease and possible central etiology of
fevers.
3. Would check amylase, lipase, full set of LFTs to evaluate for pancreatitis an
d for acalculous cholecystitis (and would have a low-threshold for obtaining [**Name (NI) **]
 sono).
4. Consider line changes, given that his lines are approximately 7 days old [**Company 2742**]
his point, although given the time course of his fevers, this is somewhat less l
ikely.
5. Given prolonged NGT, consider sinusitis and sinus CT to rule out sinusitis, a
lthough this seems unlikely given that the fevers have been persistent throughou
t his hospitalization.
6. Given lack of leukocytosis, would strongly consider
non-infectious etiologies as cause of fever. To this end, would pursue work-up f
or possible underlying blood clots. Would also strongly consider not fully treat
ed DTs as the cause of the patient's fever, and would place the patient on [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
[**Last Name (NamePattern1) 9377**] taper as per guidelines for DTs. Finally, would also consider
drugs as possible underlying cause of fevers, and cultures remain negative, woul
d d/c all antibiotics and observe.
7. Please check stool for C diff.
Highest considerations would be DVT, DTs, drugs, lines, and perhaps central sour
ce given decr MS w/ minimal imaging to date. C. dif possible too, but WBC in
decline. Would consider d/c ABX tomorrow as aspiration has been adequately treat
ed, and drug fevers possible. Continue cxs, and consider changing lines and full
y imaging head.
   No new micro data.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-11-3**] 05:00 AM
   Cefipime - [**2121-11-3**] 12:00 PM
   Vancomycin - [**2121-11-3**] 01:30 PM
   Metronidazole - [**2121-11-3**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-4**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38
C (100.4
   HR: 91 (86 - 100) bpm
   BP: 126/11(42) {82/11(42) - 128/72(86)} mmHg
   RR: 23 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 93.6 kg
   Height: 66 Inch
                  Total In:
                                                                  3,919 mL
                                                                    360 mL
   PO:
                                                                    320 mL
                                                                    360 mL
   TF:
                                                                    675 mL
   IVF:
                                                                  1,674 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    690 mL
   Urine:
                                                                  2,270 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,649 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 379 (379 - 620) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 5 cmH2O
   SpO2: 96%
   ABG: 7.42/47/87.[**Numeric Identifier 7**]/29/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 220
   Physical Examination
   GEN: NAD, resting in bed, alert, oriented, talkative, nasal cannula not
   in nares.
   CV: RRR, no m/r/g
   PULM: CTAB
   ABD: +BS, soft, NT, ND
   EXTR: no pedal edema, axillae b/l with continued macular rash of less
   erythematous pigmentation without scales
   Labs / Radiology
   291 K/uL
   12.0 g/dL
   170 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.5 mEq/L
   49 mg/dL
   99 mEq/L
   139 mEq/L
   34.6 %
   8.8 K/uL
        [image002.jpg]
                            [**2121-11-1**]  12:00 AM
                            [**2121-11-1**]  04:36 AM
                            [**2121-11-1**]  04:19 PM
                            [**2121-11-1**]  05:55 PM
                            [**2121-11-2**]  03:01 AM
                            [**2121-11-2**]  10:33 AM
                            [**2121-11-3**]  04:40 AM
                            [**2121-11-3**]  02:37 PM
                            [**2121-11-3**]  09:20 PM
                            [**2121-11-4**]  04:30 AM
   WBC
   7.3
   7.8
   8.3
   8.8
   Hct
   29.1
   30.9
   33.7
   34.6
   Plt
   186
   197
   257
   291
   Cr
   1.0
   1.2
   1.4
   2.4
   1.7
   1.3
   TCO2
   28
   29
   32
   32
   Glucose
   154
   221
   238
   330
   170
   Other labs: CK / CKMB:2233/3, ALT / AST:69/84, Alk Phos / T
   Bili:115/0.3, Amylase / Lipase:70/72, Differential (from
   10/12/9)-Neuts:72.2 %, Lymph:15.2 %, Mono:9.8 %, Eos:2.6 %, Lactic
   Acid:2.2 mmol/L, Albumin:3.8 g/dL, LDH:429 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.9 mg/dL, PO4:2.9 mg/dL
   Labs: CK 2233 (had been trending down from ~[**2112**] to 1600 to 800 and
   then bumped)
   Assessment and Plan
   The patient is a 49 year old gentleman with a PMH significant for CAD
   s/p PCI and DM 2 admitted for respiratory failure found to have an
   NSTEMI, now s/p cath with thrombectomy of previously placed LCx stent
   and being managed for EtOH withdrawl; course complicated by
   re-intubation, but now extubated (on [**11-3**]) and breathing comfortably.
   .
   # Fever: Fevers persisting, despite being on 4 antibiotics. Sputum
   showed rare GPCs in one sample, otherwise no + cultures. WBC 8.8 today
   (overall a downwards trend since admission; stable for approximately 4
   days now). Consider drug fever versus pneumonia versus other infectious
   source (LFTs elevated but stable/downtrending; altered mental status
   seems sedation-related but could be neurological process; no diarrhea;
   CXR clear; rash does not seem so severe as to be causing these fevers)
   versus withdrawal syndrome.
   - Appreciate & f/u ID recs
   - F/U cultures
   - Discontinue Cefepime, Vancomycin
   - Continue flagyl, but at c.diff dosing, until c.diff negative
   - F/U c.diff test
   - F/U final read CT abdomen/pelvis
   - Monitor WBC count, fever curve
   .
   # Respiratory failure: Hypoxic respiratory failure concerning for flash
   pulmonary edema vs PNA.  Stabilized on vent. Diuresed to point where
   lungs sounds clear, CXR looks clear, and Cr bumped
 believe diuresis
   appropriate now. Was 1.6L positive over past 24 hours. Extubated
   yesterday. Significantly improved respiratory status today. Patient
   reports chronic dry cough.
   - Goal today: even to -500mL; using lasix PRN to achieve this goal
   (hopefully in
s shouldn
t be as great, now that d/c
ing multiple IV
   antibiotics)
   - Re-culture if fevers persist; follow fever curve and WBC count;
   re-image lungs if respiratory status changes
   .
   # CAD: Patient now s/p PTCA and thrombus extraction of stent in LCx.
   TTE demonstrates mild global hypokinesis and basal inferolateral
   akinesis with LVEF 40%, although V-gram suggests 30%.  Given
   Integrillin x18 hours following cath.
   - Continue ASA 325 mg, plavix 75 mg, atorvastatin 80 mg, metoprolol
   12.5 mg [**Hospital1 **]
   - Resume home lisinopril 10 mg daily, perhaps tomorrow
   .
   # Pump: TTE today with LVEF 40% with pulmonary edema
 now believe
   fluid overload has resolved.
   - Goal today: even to -500mL; using lasix PRN to achieve this goal
   - Metoprolol as above, plan to start ACE-I when pressures stabilize
   (perhaps tomorrow)
   - Monitor volume status (UOP, I/Os)
   .
   # Rhythm: Currently sinus with 1:1 conduction with LBBB when
   tachycardic.  Monitor on telemetry.
   .
   # Mental status: Previously confused, believed to be d/t DT
s, but now
   outside that timeframe window. Still with some confusion (ie: visual,
   seeing a bag that wasn
t there) and also quite repetitive and
   circuitous in conversation (unclear if this is his baseline?)
   - Monitor mental status
   .
   # Anemia: Hct improved at 34.6 today. No evidence of bleed, will trend
   daily.
   - Transfuse for hct<28 given ACS.
   .
   # Transaminitis: Uncertain etiology at this time, although previously
   AST>ALT somewhat concerning for EtOH given social history. LFTs
   stable/downtrending over past couple of days. No abdominal pain.
   - F/U CT abdomen & pelvis
   - F/U hepatitis viral studies
   - Trend LFTs daily
   .
   # DM 2: Now that patient on regular (heart-healthy) diet, as opposed to
   tube feeds, will monitor blood sugars and adjust medication regimen as
   needed (not on insulin at home).
   - Monitor blood sugars
   .
   # EtOH: Thiamine, folate, MVI.
   .
   # Dermatologic: rash = macular, bilateral axillae
 concern contact
   dermatitis versus fungal
   -miconazole powder application
   -monitor clinically
   ICU Care
   Nutrition: Regular, heart-healthy diet
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2121-11-4**] 02:08 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: no longer intubated, so d/c famotidine
   VAP:  no longer intubated
   Comments:
   Communication:  Comments: with parents.
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the Comprehensive Progress Note by Dr. [**Last Name (STitle) **] and I
   concur with the History, Physical, and Assessment and Treatment Plan.
   My examination was performed in the present of the housestaff and the
   above note documents this examination.
   History:  Documented by Dr. [**Last Name (STitle) **].  He is now extubated and reasonably
   oriented.
   Physical: Documented by Dr. [**Last Name (STitle) **].
   Medical Decision Making:   Mr. [**Known lastname 4055**] is a 49 year old man who
   developed very late stent thrombosis following placement of two
   overlapping TAXUS stents.  Successful PCI was performed with balloon
   angioplasty alone yesterday.  Right and left heart catheterization
   showed elevated right and left heart pressures with a dilated
   cardiomyopathy and LVEF = 30%.  We have learned that the cardiomyopathy
   is of longstanding duration.   He has also developed acute alcohol
   withdrawal syndrome that required large dosages of benzodiazepidine.
   After extubation, his fevers seemed to have improved and we are
   reducing his antibiotic regimen given the negative cultures.  He is
   positive yesterday and we are aiming toward being negative today.
   We will continue aspirin 325 mg daily indefinitely and Plavix 75 mg
   twice daily for one month, followed by 75 mg daily indefinitely
   thereafter.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 7504**] [**Name8 (MD) 6192**], MD
   on:[**2121-11-4**] 16:05 ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2121-11-4**] 16:06 ------

2121-11-05 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
   CT abdomen/pelvis:
   1. Bibasilar consolidations, right more than left.
   2. No evidence of intra-abdominal source of fever.
   3. Fatty liver
   Seen by social work re: alcohol abuse.
   Denies SOB, chest discomfort/pain, abdominal pain. Tolerating food
   well. No visual/auditory hallucinations. Continued dry cough.
   Keen to stop drinking alcohol; wants to follow up with Dr. [**Last Name (STitle) **] his
   outpatient cardiologist.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-11-3**] 05:00 AM
   Cefipime - [**2121-11-3**] 12:00 PM
   Vancomycin - [**2121-11-3**] 01:30 PM
   Metronidazole - [**2121-11-3**] 02:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-11-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-5**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 88 (88 - 111) bpm
   BP: 101/66(72) {94/57(67) - 137/86(103)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.9 kg (admission): 93.6 kg
   Height: 66 Inch
                  Total In:
                                                                  1,270 mL
                  PO:
                                                                  1,270 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    680 mL
   Urine:
                                                                  2,330 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   Physical Examination
   GEN; NAD, resting comfortably in bed. Alert, oriented x 1.5 (oriented
   to person, partially to place, partially to time).
   CV; RRR, no m/r/g
   PULM: CTAB
   ABD: soft, nt, nd
   EXTR: no edema
   DERM: rash axillae improved
   Labs / Radiology
   350 K/uL
   11.9 g/dL
   176 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.8 mEq/L
   38 mg/dL
   103 mEq/L
   141 mEq/L
   35.3 %
   7.7 K/uL
        [image002.jpg]
                            [**2121-11-1**]  04:36 AM
                            [**2121-11-1**]  04:19 PM
                            [**2121-11-1**]  05:55 PM
                            [**2121-11-2**]  03:01 AM
                            [**2121-11-2**]  10:33 AM
                            [**2121-11-3**]  04:40 AM
                            [**2121-11-3**]  02:37 PM
                            [**2121-11-3**]  09:20 PM
                            [**2121-11-4**]  04:30 AM
                            [**2121-11-5**]  04:20 AM
   WBC
   7.3
   7.8
   8.3
   8.8
   7.7
   Hct
   29.1
   30.9
   33.7
   34.6
   35.3
   Plt
   186
   197
   257
   291
   350
   Cr
   1.0
   1.2
   1.4
   2.4
   1.7
   1.3
   1.1
   TCO2
   29
   32
   32
   Glucose
   154
   221
   238
   [**Telephone/Fax (3) 9403**]
   Other labs: PT / PTT / INR:12.2/25.6/1.0, CK / CKMB /
   Troponin-T:1362/3/1.05, ALT / AST:64/66, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:70/72, Differential-Neuts:72.2 %, Lymph:15.2 %,
   Mono:9.8 %, Eos:2.6 %, Lactic Acid:2.2 mmol/L, Albumin:3.8 g/dL,
   LDH:429 IU/L, Ca++:8.8 mg/dL, Mg++:2.8 mg/dL, PO4:2.5 mg/dL
   -CK downtrending from 2233 to 1362, with flat MB.
   Assessment and Plan
   The patient is a 49 year old gentleman with a PMH significant for CAD
   s/p PCI and DM 2 admitted for respiratory failure found to have an
   NSTEMI, now s/p cath with thrombectomy of previously placed LCx stent
   and being managed for EtOH withdrawl; course complicated by
   re-intubation, but now extubated (on [**11-3**]) and breathing comfortably.
   .
   # Fever: Tmax overnight 99degrees; WBC downtrending (8.8 to 7.7).
   Consider possibly fever as part of withdrawal syndrome, versus drug
   fever, versus aspiration pneumonia. Patient without cipro, cefepime,
   vancomycin on-board anymore. C.diff negative. Seems to be a resolving
   issue.
   - d/c flagyl
   - f/u ID recs
   - f/u cultures
   - monitor WBC count, fever curve
   - d/c Foley
   .
   # Respiratory failure: Hypoxic respiratory failure concerning for flash
   pulmonary edema vs PNA.  Diuresed to point where lungs sounds clear,
   CXR looks clear, and Cr bumped
 believe diuresis appropriate now.
   Extubated. Significantly improved respiratory status today. Patient
   reports chronic dry cough. Met I&O goal yesterday of negative 1L.
   - Goal today: even to -500mL; using lasix PRN to achieve this goal
   - Re-culture if fevers persist; follow fever curve and WBC count;
   re-image lungs if respiratory status changes
   - F/u with outpatient PCP for chronic dry cough
   .
   # CAD: Patient now s/p PTCA and thrombus extraction of stent in LCx.
   TTE demonstrates mild global hypokinesis and basal inferolateral
   akinesis with LVEF 40%.
   - Continue ASA 325 mg, plavix 75 mg, atorvastatin 80 mg
   - Increase metoprolol to 50mg [**Hospital1 **] as patient
s heart rate mostly at
   upper range of normal
   - Resume home lisinopril 10 mg daily, perhaps tomorrow now that Cr
   almost back at baseline (1.1; baseline 0.9)
   .
   # Pump: TTE today with LVEF 40% with pulmonary edema
 now believe
   fluid overload has resolved.
   - Goal today: even to -500mL; using lasix PRN to achieve this goal
   - Metoprolol as above; Lisinopril perhaps tomorrow, as above
   - Monitor volume status (UOP, I/Os)
   .
   # Rhythm: Currently sinus with 1:1 conduction with LBBB when
   tachycardic.  Monitor on telemetry.
   .
   # Mental status: Previously confused, believed to be d/t DT
s, but now
   outside that timeframe window. Much improved s/p extubation. Concern
   for benzodiazepine withdrawal given alcohol and benzo history of
   recent.
   - Monitor mental status
   - Benzo taper (5mg valium [**Hospital1 **] today, 5mg once tomorrow, then done)
   .
   # Anemia: Hct improved at 35.3 today. No evidence of bleed, will trend
   daily.
   - Transfuse for hct<28 given ACS.
   .
   # Transaminitis: Uncertain etiology at this time, although previously
   AST>ALT somewhat concerning for EtOH given social history. LFTs
   stable/downtrending over past couple of days. No abdominal pain. Fatty
   liver on abdominal CT. Hepatitis viral studies, B & C (BsAg, BsAb,
   BcAb, CAb), negative. Believe transaminitis d/t fatty liver; can stop
   checking daily LFT
s as stable/downtrending and [**Male First Name (un) **]
t seem to be an
   active acute clinical issue.
   - Follow-up with hepatologist as outpatient.
   .
   # DM 2: Now that patient on regular (heart-healthy) diet, as opposed to
   tube feeds, will monitor blood sugars and adjust medication regimen as
   needed (not on insulin at home); glargine dose already increased this
   AM.
   - [**Last Name (un) 72**] consult given high sugars and large insulin requirement here,
   whereas not on insulin as an outpatient
   - Monitor blood sugars
   .
   # EtOH: Thiamine, folate, MVI.
   .
   # Dermatologic: rash = macular, bilateral axillae
 concern contact
   dermatitis versus fungal; improving
   -miconazole powder application
   -monitor clinically
   ICU Care
   Nutrition: Regular, heart-healthy diet
   Glycemic Control:  SSI; [**Last Name (un) 72**] consult
   Lines:
   20 Gauge - [**2121-11-4**] 02:08 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: no longer intubated
   VAP:  no longer intubated
   Comments:
   Communication:  Comments: with parents.
   Code status: Full code
   Disposition: Call-out to step-down unit on floor today ; PT consult